US04914189
Boc-Agmatine (4.29 g, 10 mmole) is taken up in a mixture of acetone (50 ml) and 1N sodium hydroxide (50 ml) with stirring and cooling in an ice bath and 4-chlorosulfonyl phenoxyacetic acid (3.8 g, 15 mmole) added to the solution. Stirring is continued for 3 hours and the pH of the reaction mixture is kept at 11-12 by adding 4N sodium hydroxide. The reaction mixture is acidified with 10% citric acid solution and concentrated under reduced pressure to the half of its volume, and extracted with ethyl acetate (3×50 ml). The combined extracts are washed with saturated sodium chloride solution, dried over sodium sulfate, and evaporated under reduced pressure. Boc-agmatine-sulfonyl-phenoxyacetic acid (abbreviated as Boc-agmatine-[SPA]) is obtained as thick oil (3.6 g, 81%). Rf =0.5 in a 9:1 mixture (v/v) of ethyl acetate-acetic acid on Sigma F254TLC plate.

reactant | Boc-Agmatine | 10 mmole, 4.29 g | C(=O)(OC(C)(C)C)NCCCCNC(N)=N | C10H22N4O2
reactant | 4-chlorosulfonyl phenoxyacetic acid | 15 mmole, 3.8 g | ClS(=O)(=O)C1=CC=C(OCC(=O)O)C=C1 | C8H7ClO5S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
solvent | sodium hydroxide | 4N | [OH-].[Na+]
product | Boc-agmatine sulfonyl-phenoxyacetic acid | C(=O)(OC(C)(C)C)NCCCCNC(N)=N.S(=O)(=O)=C(C(=O)O)OC1=CC=CC=C1 | InChI=1S/C10H22N4O2.C8H6O5S/c1-10(2,3)16-9(15)14-7-5-4-6-13-8(11)12;9-7(10)8(14(11)12)13-6-4-2-1-3-5-6/h4-7H2,1-3H3,(H,14,15)(H4,11,12,13);1-5H,(H,9,10)
